US04959361
A solution of 1 g (7 mmol) of isocarbostyril in 40 ml of dimethylformamide was treated with 0.86 g (7.7 mmol) of potassium-tert.-butoxide. After stirring under nitrogen for 30 minutes, 0.7 ml of propargyl bromide was added and stirring at room temperature was continued for 1 hour. The reaction mixture was acidified with acetic acid and diluted with water. The precipitated product was filtered off, washed with water and sucked dry. The residue was purified by chromatography over 30 g of silica gel using 5% (v/v) of ethanol in methylene chloride and crystallization from ether to give colorless crystals of 2-(2-propynyl)-1(2H)-isoquinolinone with m.p. 104°-105°. contains about. 0.125 molar amounts of H2O.

reactant | isocarbostyril | 7 mmol, 1 g | C1(=O)NC=CC2=CC=CC=C12 | C9H7NO
reactant | potassium tert.-butoxide | 7.7 mmol, 0.86 g | [K].CC(C)([O-])C
reactant | propargyl bromide | 0.7 ml | C(C#C)Br | C3H3Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(2-propynyl)-1(2H)-isoquinolinone | C(C#C)N1C(C2=CC=CC=C2C=C1)=O | C12H9NO
